US07405210B2
Preparation 26: 5-Bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester
Route B: To a solution of 2-bromo-4-methyl-5-nitropyridine (Preparation 24, 5.7 g, 26.3 mmol) in diethyl oxalate (17.9 mL) under argon was added 1,8-diazabicyclo[5,4,0]undec-7-ene (4.5 mL, 30.2 mmol) to give a dark red precipitate. Reaction mixture was stirred at rt for 4.5 h and concentrated in vacuo. Acetic acid (140 mL) was added to the residue under argon and heated to 60° C. Iron (2.94 g, 52.6 mmol) was added in small portions over a period of 1 h. The reaction mixture was heated at 80° C. for 4 h. The reaction mixture was cooled to rt and poured into water (300 mL) which gave a beige precipitate. The precipitate was isolated and washed with water. The solid obtained was dissolved in ethyl acetate (700 ml) and filtered. The filtrate was concentrated in vacuo to give the title compound. m/z (ES+)=269 [M+H]+; RT=3.39 min.

reactant | 2-bromo-4-methyl-5-nitropyridine | 26.3 mmol, 5.7 g | BrC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5BrN2O2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 30.2 mmol, 4.5 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | 300 mL | O | H2O
reactant | diethyl oxalate | 17.9 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethyl acetate | 700 ml | C(C)(=O)OCC | C4H8O2
catalyst | Iron | 52.6 mmol, 2.94 g | [Fe] | Fe
product | 5-Bromo-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=CN=C(C2)Br)N1 | C10H9BrN2O2
